US08278290B2
A mixture of 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzo[b]furan (25 mg, 0.05 mmol) and sodium cyanide (15 mg, 0.38 mmol) in dry DMSO (1 mL) under nitrogen at room temperature was stirred for 3.5 hours (tlc), quenched with saturated ammonium chloride solution and diluted with ethyl acetate (20 mL). The organic layer was separated, dried over magnesium sulfate and solvent was distilled to afford the crude material which was purified over silica gel column (eluent-Hexane: diethyl-ether 1:1 to 0:100) to afford 2-cyano-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzo[b]furan as pale cream solid; (13 mg, 65%); 1H NMR (300 MHz, CDCl3) δ: 7.29(d, 1H, J=8.71 Hz), 7.19(s, 2H, benzoyl Hs), 6.06(d, 1H, J=8.77 Hz), 5.82(b, 1H, OH), 3.99(s, 3H, OMe), 3.96(s, 3H, OMe), 3.88(s, 6H, 2×OMe).

reactant | 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzo[b]furan | 0.05 mmol, 25 mg | BrC1=C(C2=C(O1)C(=C(C=C2)OC)OC(C)=O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C21H19BrO8
reactant | sodium cyanide | 0.38 mmol, 15 mg | [C-]#N.[Na+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-cyano-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzo[b]furan | C(#N)C1=C(C2=C(O1)C(=C(C=C2)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C20H17NO7
